US07501413B2
A solution of 11.8 g (133.4 mmol) of trans 2-butene-1,4-diol in 100 ml of DMF was treated with 6.4 g (147 mmol) of sodium hydride dispersion on oil (55%), stirred at 0° C. for 45 min., and treated dropwise with 25.1 g (160 mmol) of 4-methoxybenzylchloride. The mixture was stirred during 5 hrs at RT and then poured into a saturated aqueous solution of NaCl. Extraction with AcOEt, drying of the combined organic phases over Na2SO4, filtration, evaporation of the solvent and chromatography on silica gel with heptane/AcOEt 9:1 gave 5.7 g (21%) of trans 4-(4-methoxy-benzyloxy)-but-2-en-1-ol. Light yellow oil. MS: 207 (M−H)−.

reactant | trans 2-butene-1,4-diol | 133.4 mmol, 11.8 g | C(\C=C\CO)O | C4H8O2
reactant | sodium hydride | 147 mmol, 6.4 g | [H-].[Na+]
reactant | 4-methoxybenzylchloride | 160 mmol, 25.1 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | trans 4-(4-methoxy-benzyloxy)-but-2-en-1-ol | 5.7 g, 21% | COC1=CC=C(COC/C=C/CO)C=C1 | C12H16O3
